US05102890
The procedure is as in Example 24, but starting with 5-acetamidopentanoic acid (5 g) in dimethylformamide (66 cc), 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (6.6 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.7 cc). After recrystallization in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-acetamidopentanoate (3.3 g), m.p. 185° C., is obtained.

reactant | 5-acetamidopentanoic acid | 5 g | C(C)(=O)NCCCCC(=O)O | C7H13NO3
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.6 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.7 cc | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 66 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-acetamidopentanoate | 3.3 g | C(C)(=O)NCCCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C23H21ClN4O4
